US08071584B2
5-Bromo-6-fluoro-1H-indole-7-carboxylic acid
To a stirred solution of 5-bromo-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid (5.8 g, 0.022 mol) in THF (120 mL) was added MnO2 (11.6 g, 0.134 mol). The reaction mixture was stirred at reflux overnight and then filtered (hot) through celite, washing with hot THF (2×75 mL). The filtrate was concentrated, giving a brown solid, which was suspended in 1M HCl (150 mL). The mixture stirred at reflux overnight to remove traces of Mn and then cooled to room temperature. The solid was filtered off, dried, and recrystallised from IPA, giving 3.5 g (61%) of the title compound.

reactant | 5-bromo-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid | 0.022 mol, 5.8 g | BrC=1C=C2CCNC2=C(C1F)C(=O)O | C9H7BrFNO2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | HCl | 1M, 150 mL | Cl | ClH
catalyst | MnO2 | 0.134 mol, 11.6 g | O=[Mn]=O
product | 5-Bromo-6-fluoro-1H-indole-7-carboxylic acid | 3.5 g, 61% | BrC=1C=C2C=CNC2=C(C1F)C(=O)O | C9H5BrFNO2
